US06911549B1
Preparation 16A Baccatin III 7-O-triflate (24)
A solution of baccatin III (5.25 g, 8.93 mmoles) in CH2Cl2 (21 mL) and pyridine (18.1 mL) is cooled in a −30° C. bath. Trifluoromethanesulfonic anhydride (3.76 mL, 6.31 g, 22.3 mmoles) is added and the resulting mixture stirred and allowed to warm to room temperature over a period of an hour. The reaction is complete after 4 hrs; saturated aq NH4Cl (50 mL) is added and the mixture extracted with CH2Cl2. The organic extract is washed successively with 1 M aq NaHSO4 (50 mL), saturated aq NaHCO3 (2×50 mL), saturated aq NaCl, and dried (Na2SO4), filtered, and concentrated under reduced pressure. Care is taken not to warm the solution greater than 40° C. during removal of the solvent. A pale yellow solid is obtained and which is flash chromatographed over silica gel (6″ silica gel in a 75 mm column, 125 mL fractions). The material is applied to the column in a CH2Cl2 solution and the column eluted with 5% CH3CN—CH2Cl2. Fractions 19-35 contain the desired baccatin-III-7-O-triflate (4.837 g, 6.71 mmoles, 75%) which is a white solid.

reactant | baccatin III | 8.93 mmoles, 5.25 g | CC1=C2[C@H](C(=O)[C@@]3([C@H](C[C@@H]4[C@]([C@H]3[C@@H]([C@@](C2(C)C)(C[C@@H]1O)O)OC(=O)C=5C=CC=CC5)(CO4)OC(=O)C)O)C)OC(=O)C | C31H38O11
reactant | Trifluoromethanesulfonic anhydride | 22.3 mmoles, 3.76 mL, 6.31 g | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | NH4Cl | 50 mL | [NH4+].[Cl-]
solvent | CH2Cl2 | 21 mL | C(Cl)Cl | CH2Cl2
solvent | pyridine | 18.1 mL | N1=CC=CC=C1 | C5H5N
product | Baccatin III 7-O-triflate | CC1=C2[C@H](C(=O)[C@@]3([C@H](C[C@@H]4[C@]([C@H]3[C@@H]([C@@](C2(C)C)(C[C@@H]1O)O)OC(=O)C5=CC=CC=C5)(CO4)OC(=O)C)OS(=O)(=O)C(F)(F)F)C)OC(=O)C | C32H37F3O13S
